US05654307
Treatment of 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine (see a previous experimental) at 100° C. in a pressure vessel with sodium methoxide in methanol gives 4-(3-bromoanilino)-6-methoxypyrido[3,4-d]pyrimidine. 1H NMR (DMSO) δ 9.93 (1H, s), 8.94 (1H, s), 8.61 (1H, s), 8.26 (1H, brs), 7.94 (1H, brd, J=7.6 Hz), 7.88 (1H, s), 7.43 -7.32 (2H, m), 4.01 (3H, s).

reactant | 4-(3-bromoanilino)-6-fluoropyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)F)C=CC1 | C13H8BrFN4
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-(3-bromoanilino)-6-methoxypyrido[3,4-d]pyrimidine | BrC=1C=C(NC=2C3=C(N=CN2)C=NC(=C3)OC)C=CC1 | C14H11BrN4O
